US05948817
N-(4-Methoxy-[1,1'-biphenyl]-2-yl)-2,2-dimethylpropanamide:
A magnetically stirred solution of 4-methoxybiphenyl-2-ylamine (25.27 g, 127 mmol) in CH2Cl2 (300 mL)/pyridine (300 mL) at 0° C. under nitrogen was treated with pivaloyl chloride via syringe (16.8 g, 17.2 mL, 139 mmol). The resultant suspension was stirred for 12 h at room temperature and concentrated in vacuo. The residue was digested with CH2Cl2 (300 mL), washed with 1 N HCl (2×300 mL), 1 N NaOH (2×300 mL), H2O (300 mL), brine (300 mL), dried (K2CO3), filtered, and concentrated in vacuo to give 33.6 g (93%) of a white solid: 1H NMR (300 MHz, CDCl3) δ 1.07 (s, 9H), 3.83 (s, 3H), 6.69 (dd, J=8.5, 2 Hz, 1H), 7.12 (d, J=8.5 Hz, 1H), 7.29-7.47 (m, 5H), 7.53 (br s, 1H), 8.13 (d, J=2 Hz, 1H).

reactant | 4-methoxybiphenyl-2-ylamine | 127 mmol, 25.27 g | COC1=CC(=C(C=C1)C1=CC=CC=C1)N | C13H13NO
reactant | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Methoxy-[1,1'-biphenyl]-2-yl)-2,2-dimethylpropanamide | 33.6 g, 93% | COC1=CC(=C(C=C1)C1=CC=CC=C1)NC(C(C)(C)C)=O | C18H21NO2
